US04327103
A mixture of 3-(3-bromopropyl)-2-methylindole (13.8 g), 4-(4-fluorobenzoyl)piperidine (6.0 g), K2CO3 (4.0 g) and dimethylformamide (DMF) (100 ml) is stirred and heated at 50° C. under N2 for 16 hours. The mixture is poured into H2O, and the aqueous mixture extracted with benzene, the benzene extract is washed with H2O, dried (Na2SO4), and the solvent evaporated to leave an oil. The oil is taken up in ether and HCl (g) is bubbled into it to precipitate 10.6 g of a hydrochloride salt. The salt is converted to the free base (an oil). Upon trituration of the oil with ether 4.2 g of a solid is collected. The solid is recrystallized from EtOH-H2O (charcoal treatment), and then twice from isopropanol to yield 1.9 g (15%), m.p. 135°-137° of 3-{3-[4-(4-fluorobenzoyl)piperidyl]propyl} 2-methylindole.

reactant | 3-(3-bromopropyl)-2-methylindole | 13.8 g | BrCCCC1=C(NC2=CC=CC=C12)C | C12H14BrN
reactant | 4-(4-fluorobenzoyl)piperidine | 6.0 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | K2CO3 | 4.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | H2O | O | H2O
product | 3-{3-[4-(4-fluorobenzoyl)piperidyl]propyl} 2-methylindole | FC1=CC=C(C(=O)C2CCN(CC2)CCCC2=C(NC3=CC=CC=C23)C)C=C1 | C24H27FN2O
